US07576135B2
2-(4-chloro-2-fluoroanilino)-2-oxoacetic acid methyl ester
In a manner similar to that employed in Referential Example 242, the title compound was prepared from 4-chloro-2-fluoroaniline and methyl chlorooxoacetate.

reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-(4-chloro-2-fluoroanilino)-2-oxoacetic acid methyl ester | COC(C(=O)NC1=C(C=C(C=C1)Cl)F)=O | C9H7ClFNO3
